US08957064B2
1-{1-[4-(6-phenyl-pyrazolo[1,5-a]pyrimidin-5-yl)-benzyl]-piperidin-4-yl}-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine
250 mg (0.84 mmol) 4-(6-phenylpyrazolo[1,5-a]pyrimidin-5-yl)benzaldehyde and 257 mg (1 mmol) 1-piperidine-4-yl-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine were treated as previously described. Additional NaBH(OAc)3 has been added after one, two and three hours (two equivalents each). After a further stirring at room temperature additional 26 mg 1-piperidine-4-yl-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine and two equivalents NaBH(OAc)3 were added. After stirring overnight and two further additions of NaBH(OAc)3 the solvents were evaporated. Workup und purification yields 108 mg of the desired compound.

reactant | 4-(6-phenylpyrazolo[1,5-a]pyrimidin-5-yl)benzaldehyde | 0.84 mmol, 250 mg | C1(=CC=CC=C1)C=1C(=NC=2N(C1)N=CC2)C2=CC=C(C=O)C=C2 | C19H13N3O
reactant | 1-piperidine-4-yl-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine | 1 mmol, 257 mg | N1CCC(CC1)N1N=CC=2C1=NC=NC2N | C10H14N6
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | 1-piperidine-4-yl-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine | 26 mg | N1CCC(CC1)N1N=CC=2C1=NC=NC2N | C10H14N6
reactant | NaBH(OAc)3 | two equivalents | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 1-{1-[4-(6-phenyl-pyrazolo[1,5-a]pyrimidin-5-yl)-benzyl]-piperidin-4-yl}-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine | 108 mg | C1(=CC=CC=C1)C=1C(=NC=2N(C1)N=CC2)C2=CC=C(CN1CCC(CC1)N1N=CC=3C1=NC=NC3N)C=C2 | C29H27N9
